US06242601B1
A solution of 100 mg of 5-methyl-pyridine-2-sulfonic acid [2-(2-cyano-pyridin-4-yl)-6-methoxy-5-(2-methoxy-phenoxy)-pyrimidin-4-yl]-amide, product of example 19, dissolved in MeOH (5 ml), was treated with 47.5 mg of benzyl chloride, 10 mg of palladium on charcoal (10%) and then hydrogenated at RT for hours until TLC analysis indicated completion of transformation. The catalyst was filtered off, and the solution concentrated in vacuo. The crystalline solid that precipitated was collected by filtration, washed with ether and dried in a high vacuum to give 5-methyl-pyridine-2-sulfonic acid [2-(2-aminomethyl-pyridin-4-yl)-6-methoxy-5-(2-methoxy-phenoxy)-pyrimidin-4-yl]-amide hydrochloride as light yellow crystals. ISP mass spectrum, m/e 509.3 (M+1 calculated for C24H24N6O5S: 509).

reactant | 5-methyl-pyridine-2-sulfonic acid [2-(2-cyano-pyridin-4-yl)-6-methoxy-5-(2-methoxy-phenoxy)-pyrimidin-4-yl]-amide | 100 mg | C(#N)C1=NC=CC(=C1)C1=NC(=C(C(=N1)NS(=O)(=O)C1=NC=C(C=C1)C)OC1=C(C=CC=C1)OC)OC | C24H20N6O5S
reactant | benzyl chloride | 47.5 mg | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | MeOH | 5 ml | CO | CH4O
catalyst | palladium on charcoal | 10 mg | [Pd] | Pd
product | 5-methyl-pyridine-2-sulfonic acid [2-(2-aminomethyl-pyridin-4-yl)-6-methoxy-5-(2-methoxy-phenoxy)-pyrimidin-4-yl]-amide hydrochloride | Cl.NCC1=NC=CC(=C1)C1=NC(=C(C(=N1)NS(=O)(=O)C1=NC=C(C=C1)C)OC1=C(C=CC=C1)OC)OC | InChI=1S/C24H24N6O5S.ClH/c1-15-8-9-20(27-14-15)36(31,32)30-23-21(35-19-7-5-4-6-18(19)33-2)24(34-3)29-22(28-23)16-10-11-26-17(12-16)13-25;/h4-12,14H,13,25H2,1-3H3,(H,28,29,30);1H
